US05134111
(f) Preparation of 3-isopropyl-4-hydroxy-5-methyl-1-naphthalenecarbaldehyde
0.65 g of 2-isopropyl-8-methyl-1-naphthol was dissolved in 50 ml of dichloromethane and cooled down to 0° C. 1.3 ml of titanium tetrachloride was gradually dropped in the solution for reaction at 0° C. for 5 minutes, after which 0.9 ml of dichloromethyl methyl ether was gradually dropped and reacted at 0° C. for 1 hour. Water was added to the reaction solution, which was extracted with ethyl acetate. The resultant organic phase was washed with a saturated saline solution, dried with anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting crystals were collected by filtration to obtain 0.7 g of the captioned compound as black crystals.

reactant | 2-isopropyl-8-methyl-1-naphthol | 0.65 g | C(C)(C)C1=C(C2=C(C=CC=C2C=C1)C)O | C14H16O
reactant | dichloromethyl methyl ether | 0.9 ml | COC(Cl)Cl | C2H4Cl2O
reactant | Water | O | H2O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
catalyst | titanium tetrachloride | 1.3 ml | [Ti](Cl)(Cl)(Cl)Cl
product | 3-isopropyl-4-hydroxy-5-methyl-1-naphthalenecarbaldehyde | 0.7 g | C(C)(C)C=1C=C(C2=CC=CC(=C2C1O)C)C=O | C15H16O2
